US04371720
Trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]5-cyanocyclohexanone
To a refluxing solution of 3.99 g. (9.87 mmole) of 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-cyclohexen-1-one in 6.65 ml. of ethyl acetate was added a hot solution of 800 mg. (11.9 mmole) of potassium cyanide in 2 ml. water and 2.3 ml. ethanol. The reaction was refluxed 2 hours and then another 2.74 mmole of potassium cyanide added. The reaction was refluxed one hour longer and then cooled and added to 400 ml. saturated sodium chloride-400 ml. ether. The ether extract was dried over magnesium sulfate and evaporated to yield an oil. The crude oil was purified via column chromatography on 160 g. of silica gel eluted with 10% acetone-hexane to yield 3.02 g. (71%) of the title compound.

reactant | 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-cyclohexen-1-one | 9.87 mmole | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC=CC(C1)=O | C28H36O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium cyanide | 11.9 mmole | [C-]#N.[K+]
reactant | potassium cyanide | 2.74 mmole | [C-]#N.[K+]
reactant | sodium chloride | 400 ml | [Cl-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]5-cyanocyclohexanone | 71% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@@H]1CC(C[C@H](C1)C#N)=O | C29H37NO2
